US06599917B1
c) 2-Bromo-6-[(3R,4R)-3-methoxymethyloxy-4-[2-(methanesulfonyloxy)ethyl]oxypyrrolidine-1-yl]pyridine
7.9 ml of triethylamine was slowly added to a solution of 70 ml of dichloromethane containing 13.14 g of 2-bromo-6-[(3R,4R)-3-methoxymethyloxy-4-(2-hydroxyethyl)oxypyrrolidine-1-yl]pyridine in an ice bath. Then, 3.2 ml of methanesulfonyl chloride was slowly added thereto, followed by stirring for 15 minutes. Then, the reaction solution was poured into water and extracted twice with dichloromethane. The organic phase was washed with brine and the solvent was removed. The residue was filtered through NH-silica gel, to give 15.66 g of the target compound.

reactant | triethylamine | 7.9 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 70 ml, 13.14 g | ClCCl | CH2Cl2
reactant | 2-bromo-6-[(3R,4R)-3-methoxymethyloxy-4-(2-hydroxyethyl)oxypyrrolidine-1-yl]pyridine | BrC1=NC(=CC=C1)N1C[C@H]([C@@H](C1)OCCO)OCOC | C13H19BrN2O4
reactant | methanesulfonyl chloride | 3.2 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | O | H2O
product | 2-Bromo-6-[(3R,4R)-3-methoxymethyloxy-4-[2-(methanesulfonyloxy)ethyl]oxypyrrolidine-1-yl]pyridine | 15.66 g | BrC1=NC(=CC=C1)N1C[C@H]([C@@H](C1)OCCOS(=O)(=O)C)OCOC | C14H21BrN2O6S
